US07718693B2
A solution of 2,3-dichloro-4-fluorobenzoic acid (0.200 g, 0.92 mmol) in dichloromethane (˜4 ml) was treated with 1-hydroxybenzotriazole (0.162 g, 1.2 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.230 g, 1.2 mmol), and triethylamine (0.56 ml, 4.0 mmol) under argon at room temperature. The mixture was stirred at room temperature for 40 minutes then treated with) 32% aqueous ammonium hydroxide (0.088 ml) and stirred overnight at room temperature. The mixture was diluted with dichloromethane and washed sequentially with water and then with saturated aqueous sodium hydrogen carbonate. The organic layer was separated and dried over sodium sulphate then concentrated to give 2,3-dichloro-4-fluorobenzamide (0.156 g) as a white solid that was used without further purification.

reactant | 2,3-dichloro-4-fluorobenzoic acid | 0.92 mmol, 0.200 g | ClC1=C(C(=O)O)C=CC(=C1Cl)F | C7H3Cl2FO2
reactant | 1-hydroxybenzotriazole | 1.2 mmol, 0.162 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.2 mmol, 0.230 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium hydroxide | 0.088 ml | [OH-].[NH4+]
solvent | dichloromethane | ˜4 ml | ClCCl | CH2Cl2
product | 2,3-dichloro-4-fluorobenzamide | 0.156 g | ClC1=C(C(=O)N)C=CC(=C1Cl)F | C7H4Cl2FNO
